US05817671
5-(N-[propionyl]amino)-3-(1-(2-phenyleth-1-yl)-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.015 gm (0.047 mMol) 5-amino-3-(1-(2-phenyleth-1-yl)-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine and 0.005 mL (0.061 mMol) propionyl chloride, the title compound was prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-(2-phenyleth-1-yl)-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | 0.047 mMol, 0.015 gm | NC1=CC=C2C(=N1)C(=CN2)C=2CCN(CC2)CCC2=CC=CC=C2 | C20H22N4
reactant | propionyl chloride | 0.061 mMol, 0.005 mL | C(CC)(=O)Cl | C3H5ClO
product | 5-(N-[propionyl]amino)-3-(1-(2-phenyleth-1-yl)-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | C(CC)(=O)NC1=CC=C2C(=N1)C(=CN2)C=2CCN(CC2)CCC2=CC=CC=C2 | C23H26N4O
